US05639752
K. 6-(3-(2-Dimethylaminoethyl)indol-5-ylamino)purine
5-Amino-3-(2-dimethylaminoethyl)indole and 6-chloropurine were used. No base was used, acetic acid was used as solvent, and the reaction was heated at reflux (116° C.) for 15 hours. Chromatography afforded the title compound (66%) as a white foam: mp, decomposes 175° C.; 13C NMR (CD3OD) δ153.7, 153.4, 141.5, 136.0, 131.5, 128.3, 125.6, 119.2, 113.3, 113.0, 109.9, 59.1, 43.6, 21.9. Anal. calcd for C17H19N7.HCl.2H2O: C, 51.84; H, 6.14; N, 24.89. Found: C, 52.14; H, 6.22; N, 25.03.

reactant | 5-Amino-3-(2-dimethylaminoethyl)indole | NC=1C=C2C(=CNC2=CC1)CCN(C)C | C12H17N3
reactant | 6-chloropurine | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-(3-(2-Dimethylaminoethyl)indol-5-ylamino)purine | 66% | CN(CCC1=CNC2=CC=C(C=C12)NC1=C2NC=NC2=NC=N1)C | C17H19N7
